US05308857
A mixture of 2-(diaminomethyleneamino)-4-[5-(2-cyano-3-methylguanidino)methylfuran-2-yl]thiazole (2.28 g) and 4M-dioxanic hydrogen chloride (10 ml) in methanol (20 ml) was stirred at ambient temperature for 19 hours and further at 50° C. for 5 hours. The resulting precipitate was collected by filtration, washed with methanol, and recrystallized from a mixture of methanol and water to afford 2-(diaminomethyleneamino)-4-[5-(2-carbamoyl-3-methylguanidino)methylfuran-2-yl]thiazole dihydrochloride (1.65 g).

reactant | 2-(diaminomethyleneamino)-4-[5-(2-cyano-3-methylguanidino)methylfuran-2-yl]thiazole | 2.28 g | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(=NC#N)NC | C12H14N8OS
reactant | hydrogen chloride | 10 ml | Cl | ClH
reactant | methanol | 20 ml | CO | CH4O
product | 2-(diaminomethyleneamino)-4-[5-(2-carbamoyl-3-methylguanidino)methylfuran-2-yl]thiazole dihydrochloride | 1.65 g | Cl.Cl.NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(=NC(N)=O)NC | InChI=1S/C12H16N8O2S.2ClH/c1-16-11(20-10(15)21)17-4-6-2-3-8(22-6)7-5-23-12(18-7)19-9(13)14;;/h2-3,5H,4H2,1H3,(H4,13,14,18,19)(H4,15,16,17,20,21);2*1H
